US08183280B2
C. (2S)—N-(tert-Butyloxycarbonyl)-4,4-difluoropyrrolidine-2-carboxylic acid
Methyl (2S)—N-(tert-butyloxycarbonyl)-4,4-difluoropyrrolidine-2-carboxylate (2.2 g, 8.3 mmol) was dissolved in THF (100 ml). Aqueous lithium hydroxide (1M, 10.6 ml, 10.6 mmol) was added. After 3 h at room temperature the reaction mixture was diluted with ethyl acetate (150 ml), washed with 1M HCl, water, and brine, dried (Na2SO4) and evaporated in vacuo. The residue was purified by flash chromatography (eluant: 95% chloroform, 4% methanol, 1% acetic acid) to give an orange oil identified as the title compound (2.1 g, 8.3 mmol 100%).

reactant | Methyl (2S)—N-(tert-butyloxycarbonyl)-4,4-difluoropyrrolidine-2-carboxylate | 8.3 mmol, 2.2 g | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)(F)F)C(=O)OC | C11H17F2NO4
reactant | lithium hydroxide | 10.6 mmol, 1M, 10.6 ml | [OH-].[Li+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | (2S)—N-(tert-Butyloxycarbonyl)-4,4-difluoropyrrolidine-2-carboxylic acid | 8.3 mmol, 2.1 g, 100% | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)(F)F)C(=O)O | C10H15F2NO4
